US07576215B2
1-[3-(3-BENZOYL-8-TRIFLUOROMETHYL-QUINOLIN-4-YL)-PHENYL]-3-PHENYL-UREA
The title compound was prepared from [4-(3-aminophenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone and phenyl isocyanate in substantially the same manner as described in Example 61 with one change: no triethylamine was used; off-white solid: MS (EI) m/z 512.2 (M+H)+; 1H NMR (DMSO-d6): δ 6.90 (d, J=7.7 Hz, 1H), 6.96 (t, J=7.3 Hz, 1H), 7.20-7.30 (m, 3H), 7.35-7.47 (m, 6H), 7.57 (t, J=7.5 Hz, 1H), 7.66 (d, J=8.5 Hz, 2H), 7.83 (d, J=7.7 Hz, 1H), 8.35 (d, J=6.9 Hz, 1H), 8.66 (s, 1H), 8.74 (s, 1H), 9.14 (s, 1H).

reactant | [4-(3-aminophenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone | NC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H15F3N2O
reactant | phenyl isocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-[3-(3-BENZOYL-8-TRIFLUOROMETHYL-QUINOLIN-4-YL)-PHENYL]-3-PHENYL-UREA | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NC(=O)NC1=CC=CC=C1)C(F)(F)F | C30H20F3N3O2
